US06806277B2
0.834 g of hydroxylamine hydrochloride is added, with stirring and under an inert atmosphere, to a mixture of 3.5 g of methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate in 35 cm3 of pyridine at a temperature in the region of 20° C. The mixture is stirred for 5 hours at a temperature in the region of 20° C. The reaction mixture is concentrated to dryness under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue is taken up in 300 cm3 of ethyl acetate and 100 cm3 of water. After standing for 16 hours, the mixture is extracted with 3 times 100 cm3 of ethyl acetate. The organic extracts are combined, washed with 3 times 100 cm3 of water, dried over sodium sulfate, filtered and concentrated to dryness under reduced pressure (5 kPa) at a temperature in the region of 40° C. 3.35 g of methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3-hydroxyimino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate are obtained.

reactant | hydroxylamine hydrochloride | 0.834 g | Cl.NO
reactant | methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 3.5 g | FC1=C(C=C(C=C1F)F)C#CCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=O)C(=O)OC | C29H27F3N2O4
solvent | pyridine | 35 cm3 | N1=CC=CC=C1 | C5H5N
product | methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3-hydroxyimino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 3.35 g | FC1=C(C=C(C=C1F)F)C#CCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=NO)C(=O)OC | C29H28F3N3O4
